US05939413
To an ice-cooled solution of (1R)-N1 -(tert-butoxycarbonyl)-1-(1H-indol-3-ylmethyl)-1,2-ethanediamine (7.00 g) in a mixed solvent of dichloromethane (200 ml) and dimethylformamide (200 ml) was added potassium carbonate (10.03 g). To the mixture was added dropwise bromoacetyl chloride (7.61 g) for 3 minutes, and then the mixture was stirred at the same temperature for 1 hour and 40 minutes by adding further potassium carbonate (3.34 g) and bromoacetyl chloride (2.00 ml) into the mixture. The resulting mixture was poured into water, and extracted twice with dichloromethane. The extracts were combined and washed successively with 0.5N hydrochloric acid and brine, and dried over magnesium sulfate. After evaporation in vacuo, the residue was dried to give (1R)-N1 -(tert-butoxycarbonyl)-N2 -(bromoacetyl)-1-(1H-indol-3-ylmethyl)-1,2-ethanediamine (9.9 g) as crystal.

reactant | (1R)-N1 -(tert-butoxycarbonyl)-1-(1H-indol-3-ylmethyl)-1,2-ethanediamine | 7.00 g | C(C)(C)(C)OC(=O)N[C@@H](CN)CC1=CNC2=CC=CC=C12 | C16H23N3O2
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
reactant | potassium carbonate | 10.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetyl chloride | 7.61 g | BrCC(=O)Cl | C2H2BrClO
reactant | potassium carbonate | 3.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetyl chloride | 2.00 ml | BrCC(=O)Cl | C2H2BrClO
solvent | water | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | (1R)-N1 -(tert-butoxycarbonyl)-N2 -(bromoacetyl)-1-(1H-indol-3-ylmethyl)-1,2-ethanediamine | 9.9 g | C(C)(C)(C)OC(=O)N[C@@H](CNC(CBr)=O)CC1=CNC2=CC=CC=C12 | C18H24BrN3O3
